US05374641
To 0.30 g of methyl 4-[2-formamido-2-(3-pyridyl)ethyl]benzoate in 10 ml of methanol-1,4 dioxane (1:1) in solution was added 5 ml of 4% sulfuric acid, and stirred under heating at 60 ° C for three hours, which was then poured into an aqueous saturated solution of sodium hydrogencarbonate to be extracted with ethyl acetate. The organic phase was washed in saturated aqueous sodium chloride solution, and dried over magnesium sulfate, to produce 0.19 g of methyl 4-[2-amino-2-(3-pyridyl)ethyl]benzoate after the evaporation of the solvent.

reactant | methyl 4-[2-formamido-2-(3-pyridyl)ethyl]benzoate | 0.30 g | C(=O)NC(CC1=CC=C(C(=O)OC)C=C1)C=1C=NC=CC1 | C16H16N2O3
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | methyl 4-[2-amino-2-(3-pyridyl)ethyl]benzoate | 0.19 g | NC(CC1=CC=C(C(=O)OC)C=C1)C=1C=NC=CC1 | C15H16N2O2
